US04184867
(a) Preparation of 4-nitro-3-(trifluoromethyl)-benzenesulfonyl chloride
A mixture containing 57.5 g (0.28 mole) of 4-nitro-2-(trifluoromethyl)aniline in 200 ml of concentrated hydrochloric acid was heated to 90° for 15 minutes and left stirring at ambient temperature for 18 hours. The resulting mixture was chilled to 4° and diazotized with 21.4 g (0.31 mole) of sodium nitrite in 50 ml of water. After one hour, the diazonium salt solution was added dropwise over 20 minutes and with stirring to a cold (5°-10°) solution containing 13 g of cupric chloride and 64 g of sulfur dioxide in 250 ml of glacial acetic acid. After two hours, the mixture was filtered. The filter cake was washed well with water and dried to give 68 g (84%) of product as a light tan solid; m.p. 77°-79° C.

reactant | 4-nitro-2-(trifluoromethyl)aniline | 0.28 mole, 57.5 g | [N+](=O)([O-])C1=CC(=C(N)C=C1)C(F)(F)F | C7H5F3N2O2
reactant | sodium nitrite | 0.31 mole, 21.4 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | 64 g | S(=O)=O | O2S
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 4-nitro-3-(trifluoromethyl)-benzenesulfonyl chloride | 68 g, 84% | [N+](=O)([O-])C1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3ClF3NO4S
